//Test Fig. 13
simulator lang=spectre
global 0
ahdl_include "SchottkyGatedJunction_e.va"
ahdl_include "SchottkyGatedJunction_h.va"
parameters Vs=0.0 Vd=-0.5 Vg=0 Charge=10e-6 T_C=21.8
// Netlist
VDrain (C 0) vsource dc=Vd type=dc
VSource (A 0) vsource dc=Vs type=dc
VGate (G 0) vsource dc=Vg type=dc
SD1h (B1 A Ch) SchGDiode_h_v2 
SD2h (B2 C Ch) SchGDiode_h_v2 
SD1e (B1 A Ch) SchGDiode_e_v2 
SD2e (B2 C Ch) SchGDiode_e_v2 
VCharge (Ch 0) vsource dc=Charge type=dc
Mp0 (B2 G B1 0) pchmos3 l=10u w=1u ad=120p as=75p pd=36u ps=6u

//Simulator Options
simulatorOptions options reltol=100e-6 vabstol=1e-6 iabstol=1e-12 temp=T_C \ 
    tnom=25 homotopy=all limit=delta scalem=1.0 scale=1.0 \ 
    compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 digits=5 \ 
    cols=80 pivrel=1e-3 sensfile="../psf/sens.output" checklimitdest=psf 
simOptions options minr=1e-3
// Analysis
// DC operating point
OpPoint dc print=yes readns="%C:r.dc25" write="%C:r.dc25"
// DC Sweep
dcSweep dc param=Vg start=0 stop=-1 step=1e-3 maxiters=150 \ 
    maxsteps=10000 annotate=status
print I(SD1:anode), name=dcSweep to="%C:r_%A.out" precision="%15g"
saveOptions options save=all currents=all

model pchmos3 mos3 type=p vto=-0.5 tox=0.3e-7 nsub=1e15
